US04578378
To a solution of sodiomalonic acid diethyl ester prepared from sodium hydride (704 mg), diethyl malonate (3 ml), and tetrahydrofuran (10 ml) is added aziridine-1-carboxylic acid benzyl ester (1.8 g). After 22 hours at room temperature, the mixture is neutralized with 10% phosphoric acid, washed with water, dried and concentrated to give 1-carbobenzoxy-2-oxopyrroidine-3-carboxylic acid ethyl ester (1.85 g). Oil. IR (CHCl3) ν: 1785, 1730 cm-1.

reactant | sodiomalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)[Na])=O
reactant | sodium hydride | 704 mg | [H-].[Na+]
reactant | diethyl malonate | 3 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | aziridine-1-carboxylic acid benzyl ester | 1.8 g | C(C1=CC=CC=C1)OC(=O)N1CC1 | C10H11NO2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-carbobenzoxy-2-oxopyrroidine-3-carboxylic acid ethyl ester | 1.85 g | C(C)OC(=O)C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O | C15H17NO5
